US09416353B2
c. 2-{2-[4-(2-chloroethyl)phenoxy]ethoxy}ethanaminium chloride
tert-butyl 2-{2-[4-(2-chloroethyl)phenoxy]ethoxy}ethylcarbamate (1.7 mmol) was dissolved in 5 ml dichloromethane and triethylsilane (0.5 ml, 5% v/v) was added. At this point trifluoroacetic acid (5 ml) was added dropwise to the solution at room temperature. The reaction mixture turned golden brown upon addition and was allowed to stir for one hour. All volatiles were removed under reduced atmosphere, the residue was re-dissolved in CH2Cl2, and washed twice with dilute HCl. The aqueous fractions were lyophilized overnight. The remaining oily residue was dissolved in anhydrous DMF to be used as a stock solution in further reactions.

reactant | tert-butyl 2-{2-[4-(2-chloroethyl)phenoxy]ethoxy}ethylcarbamate | 1.7 mmol | ClCCC1=CC=C(OCCOCCNC(OC(C)(C)C)=O)C=C1 | C17H26ClNO4
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-{2-[4-(2-chloroethyl)phenoxy]ethoxy}ethanaminium chloride | [Cl-].ClCCC1=CC=C(OCCOCC[NH3+])C=C1 | InChI=1S/C12H18ClNO2.ClH/c13-6-5-11-1-3-12(4-2-11)16-10-9-15-8-7-14;/h1-4H,5-10,14H2;1H
